US08877782B2
Cyclopropanecarboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-amide
As described for example 179b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-ylamine (150 mg, 0.53 mmol) was converted, using cyclopropanecarbonylchloride instead of acetyl chloride, to the title compound (132 mg, 71%) which was obtained as a white solid after trituration with diisopropylether. MS: m/e=350.0 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-ylamine | 0.53 mmol, 150 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)N | C16H15N3O2
reactant | cyclopropanecarbonylchloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | Cyclopropanecarboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-amide | 132 mg, 71% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)NC(=O)C1CC1 | C20H19N3O3
